* Canonical DUT generated from benchmark/analogcoder_pro/p05_amplifier.cir
* Embedded analyses and output directives were externalized into metadata.
* AnalogCoder-Pro p5: A single-stage cascode amplifier with two NMOS transistors provides a single-ended output through a resistive load R
* Source: analogcoder\AnalogCoderPro-master\sample_design\p5\p5.py
* AnalogCoder-Pro type: Amplifier
* Inputs: Vin, Vbias
* Outputs: Vout
.MODEL nmos NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
Vdd Vdd 0 5
Vbias Vbias 0 3
* original signal source: Vin Vin 0 DC 1.5 AC 1n
Vin Vin 0 0
Rload Vout Vdd 10k
M1 Drain_M1 Vin 0 0 nmos W=5e-05 L=1e-06
M2 Vout Vbias Drain_M1 Drain_M1 nmos W=5e-05 L=1e-06
* original analysis: .OP
* original analysis: .AC DEC 100 1 1G
.END
